US04952574
Using the general method of Example I Part A, 6.5 g (0.02 mole) of 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide was reacted with 3.9 g (0.028 mole) of 2-bromoethyl methyl ether to give 5.2 g of white crystalline 2-(2-methoxyethoxy)-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide, m.p. 104°-107° C.

reactant | 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | 0.02 mole, 6.5 g | OC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C15H13F3N2O3
reactant | 2-bromoethyl methyl ether | 0.028 mole, 3.9 g | COCCBr | C3H7BrO
product | 2-(2-methoxyethoxy)-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | 5.2 g | COCCOC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C18H19F3N2O4
